US06306860B1
6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-N-(2-pyridylmethyl)nicotinamide
By the same procedure as described in the example 73, synthesis was carried out starting with 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid and using 2-(aminomethyl)pyridine. And then, the product was chromatographed on column (hexane/methylene chloride/ethyl acetate=2/1/1, v/v/v) and crystallized with ether to give a desired compound.

reactant | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C18H21N5O3
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
product | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-N-(2-pyridylmethyl)nicotinamide | Yield: 70% | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)NCC2=NC=CC=C2)C=C1 | C24H27N7O2
